* BSIM4 生成模型 (generated=1) 直驱 — 与 HSPICE W-2024.09 黄金参考对比
* HSPICE 参考: VG=0.7 VD=1.0 W=1u L=130n → Id = 2.652e-06 A
VDS d 0 1.0
VGS g 0 0.7

M1 d g 0 0 nmos w=1u l=130n

.model nmos bsim4va generated=1
+ toxe=3e-9 toxp=3e-9
+ vth0=0.5 k1=0.5 k2=0 k3=0
+ dvt0=1 dvt1=2 dvt2=-0.032
+ u0=0.045 ua=-1e-10 ub=0
+ vsat=1.5e5 rdsw=160 nfactor=1.2
+ cgso=0.1e-9 cgdo=0.1e-9 cgbo=0
+ cjs=1e-3 cjd=1e-3 cjsws=1e-10 cjswd=1e-10
+ mjs=0.5 mjd=0.5 mjsws=0.33 mjswd=0.33
+ pbs=0.88 pbd=0.88 pbsws=0.88 pbswd=0.88

.op
.print i(vds) i(vgs)
.end
